US06723722B1
1-{Methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone Dihydrochloride
A solution of 4-benzyloxycarbonyl-1-{methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone (2.22 g) and a 4N solution of hydrochloric acid in ethyl acetate (2.6 ml) in methanol (50 ml) was combined with 10% Pd/C (50% hydrated, 0.44 g) and stirred at room temperature for 5 hours under a hydrogen atmosphere. The catalyst was filtered off and the reaction mixture was concentrated to obtain the title compound. (2.13 g) as a yellow amorphous material.

reactant | 4-benzyloxycarbonyl-1-{methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone | 2.22 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)N(C1CCN(CC1)C1=CC=NC=C1)C)=O | C23H29N5O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 2.6 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 0.44 g | [Pd] | Pd
product | 1-{Methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone Dihydrochloride | Cl.Cl.CN(N1C(CNCC1)=O)C1CCN(CC1)C1=CC=NC=C1 | InChI=1S/C15H23N5O.2ClH/c1-18(20-11-8-17-12-15(20)21)13-4-9-19(10-5-13)14-2-6-16-7-3-14;;/h2-3,6-7,13,17H,4-5,8-12H2,1H3;2*1H
